* Extracted by KLayout with SG13CMOS5L LVS runset on : 09/09/2026 09:17

.SUBCKT opamp_rtr ibias inn inp out vdd vss
M$1 \$36 \$36 \$36 vss sg13_hv_nmos L=1u W=5u AS=1.325p AD=1.325p PS=8.56u
+ PD=8.56u rfmode=0
M$2 \$36 \$29 \$10 vss sg13_hv_nmos L=1u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$6 vss ibias \$7 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$8 vss ibias ibias vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$10 vss ibias \$87 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$13 vss \$33 \$35 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$15 vss \$33 \$33 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$17 vss \$33 \$36 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$20 vss \$138 \$138 vss sg13_hv_nmos L=1u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$21 \$138 \$29 \$29 vss sg13_hv_nmos L=1u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$26 vss \$36 out vss sg13_hv_nmos L=1u W=20u AS=3.8p AD=3.8p PS=23.04u
+ PD=23.04u rfmode=0
M$35 \$87 \$87 \$87 vss sg13_hv_nmos L=0.45u W=10u AS=2.65p AD=2.65p PS=18.18u
+ PD=18.18u rfmode=0
M$36 \$87 \$7 \$88 vss sg13_hv_nmos L=1u W=5u AS=0.95p AD=0.95p PS=5.76u
+ PD=5.76u rfmode=0
M$40 vss \$81 \$81 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=6.52u
+ PD=6.52u rfmode=0
M$42 vss \$81 \$87 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=6.52u
+ PD=6.52u rfmode=0
M$45 vss \$67 \$67 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=6.52u
+ PD=6.52u rfmode=0
M$47 vss \$67 \$36 vss sg13_hv_nmos L=4u W=5u AS=0.95p AD=0.95p PS=6.52u
+ PD=6.52u rfmode=0
M$61 \$10 \$10 \$10 vdd sg13_hv_pmos L=1u W=15u AS=3.975p AD=3.975p PS=23.56u
+ PD=23.56u rfmode=0
M$62 \$10 \$35 \$36 vdd sg13_hv_pmos L=1u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$66 vdd \$76 \$76 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=16.52u
+ PD=16.52u rfmode=0
M$68 vdd \$76 \$10 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=16.52u
+ PD=16.52u rfmode=0
M$71 vdd \$88 \$88 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=16.52u
+ PD=16.52u rfmode=0
M$73 vdd \$88 \$34 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=16.52u
+ PD=16.52u rfmode=0
M$88 \$34 \$7 \$81 \$34 sg13_hv_pmos L=1u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$92 vdd \$10 out vdd sg13_hv_pmos L=1u W=60u AS=11.4p AD=11.4p PS=63.04u
+ PD=63.04u rfmode=0
M$102 vdd \$7 \$29 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$104 vdd \$7 \$7 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$106 vdd \$7 \$10 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$108 vdd \$7 \$33 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$110 vdd \$7 \$34 vdd sg13_hv_pmos L=4u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$113 vdd \$3 \$3 vdd sg13_hv_pmos L=1u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$114 \$3 \$35 \$35 vdd sg13_hv_pmos L=1u W=15u AS=2.85p AD=2.85p PS=15.76u
+ PD=15.76u rfmode=0
M$118 \$87 inn \$76 vss sg13_hv_nmos L=2u W=5u AS=0.95p AD=0.95p PS=6.52u
+ PD=6.52u rfmode=0
M$120 \$87 inp \$10 vss sg13_hv_nmos L=2u W=5u AS=0.95p AD=0.95p PS=6.52u
+ PD=6.52u rfmode=0
C$129 \$93 out cap_cmomf w=21u l=13.5u A=0p P=0u m=1
R$130 vss vss vss rhigh w=1u l=9u ps=0u b=0 m=2
R$134 \$93 \$10 vss rhigh w=1u l=36u ps=0u b=0 m=1
R$138 \$36 \$62 vss rhigh w=1u l=36u ps=0u b=0 m=1
C$140 \$62 out cap_cmomf w=13.5u l=21u A=0p P=0u m=1
M$141 \$34 \$34 \$34 \$34 sg13_hv_pmos L=0.4u W=15u AS=3.975p AD=3.975p
+ PS=24.62u PD=24.62u rfmode=0
M$142 \$34 inn \$67 \$34 sg13_hv_pmos L=2u W=15u AS=2.85p AD=2.85p PS=16.52u
+ PD=16.52u rfmode=0
M$144 \$34 inp \$36 \$34 sg13_hv_pmos L=2u W=15u AS=2.85p AD=2.85p PS=16.52u
+ PD=16.52u rfmode=0
.ENDS opamp_rtr
